US08895273B2
A gar1 deletion strain from example 4 was used to express the A. tumefaciens D-galacturonic acid dehydrogenase uro1 from example 1. The BamHI fragment containing the uro1 was released from the TOPO vector described in the Example 1 and the uro1 gene was ligated to the BamHI site of the modified pAN53-1 NotI vector described by Kuorelahti et al., 2006. It was checked that the orientation of the uro1 was suitable for transcription. The resulting plasmid was then cotransformed into the gar1 deletion strain with a selection plasmid pTOC202 that has the A. nidulans amdS gene coding for acetamidase as a marker. Transformants were selected for growth in the presence of acetamide. The transformants were also verified by PCR and by testing the crude extract of the mycelia for D-galacturonic acid dehydrogenase activity. The activity in the transformants were 1.3-1.5 nkat per mg of extracted protein. In the control strain no activity was detected. The transformants were also used for a fermentation experiment to convert D-galacturonic acid to mucic acid. For that purpose mutant and control strains were tested as described in Example 4 except that the medium contained 1% D-xylose in addition to the 1% D-galacturonic acid. The D-xylose was added to allow the strains to grow since the mutant strain is unable to grow on D-galacturonic acid. After 3 days the mutant strains expressing the uro1 had produced between 1 and 1.3 g/l of mucic acid while the control strain, which only contained the gar1 deletion, did not produce detectable amounts of mucic acid.

reactant | D-galacturonic acid | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O | C6H10O7
reactant | acetamide | C(C)(=O)N | C2H5NO
product | mucic acid | [C@@H]([C@@H]([C@H](C(=O)O)O)O)([C@@H](C(=O)O)O)O | C6H10O8
